US05637780
4-(Triphenylmethoxymethyl)benzyl chloride
A 100 mL round bottom flask was charged with triphenylmethyl methyl ether (2.74 g, 10 mmol), trityl chloride (2.79 g, 10 mmol), p-hydroxymethylbenzyl chloride (3.13 g, 20 mmol), toluene (12 mL), heptane (12 mL) and 32% HCl (2 drops). The solution was heated to reflux and 12 mL solvent was distilled over 2 hours. The solution was cooled to room temperature and the resulting slurry diluted with 12 mL heptane. After cooling in an ice bath, the product was isolated by vacuum filtration and dried in vacuo at 40° C. to give 6.27 g (79% yield) of crude product. Recrystallization from 20 mL acetonitrile gave 5.46 g (88% recovery) of the desired product. The product had a melting point of 126°-128° C. 1H NMR spectral data were as follows: (CDCl3, 300 MHz): δ7.6-7.2 (complex, 19H), 4.6 (s, 2H), 4.2 (s, 2H).

reactant | triphenylmethyl methyl ether | 10 mmol, 2.74 g | COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18O
reactant | trityl chloride | 10 mmol, 2.79 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | p-hydroxymethylbenzyl chloride | 20 mmol, 3.13 g | OCC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | HCl | 2 drops | Cl | ClH
solvent | heptane | 12 mL | CCCCCCC | C7H16
product | 4-(Triphenylmethoxymethyl)benzyl chloride | C1(=CC=CC=C1)C(OCC1=CC=C(CCl)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23ClO
